US06159904
A mixture containing 2.0 g (7.8 mmol) of 6-carboxy-8-chloro-5-methylthiochroman-4-one and 2.8 g (3.0 eq., 24 mmol) of thionyl chloride was stirred under heat at 40° C. for 2 hours. After the completion of the reaction, excess thionyl chloride was removed under reduced pressure. Then, the resultant acid chloride was dissolved in 10 ml of methylene chloride, and 0.96 g (1.1 eq., 8.6 mmol) of 1-ethyl-5-hydroxypyrazole and 0.95 ml (9.41 mmol) of triethylamine were added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with methylene chloride, washed with diluted hydrochloric acid and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off to give 2.29 g (yield 84%) of 8-chloro-6-(1-ethylpyrazol-5-yl)oxycarbonyl-5-methylthiochroman-4-one.

reactant | 6-carboxy-8-chloro-5-methylthiochroman-4-one | 7.8 mmol, 2.0 g | C(=O)(O)C=1C(=C2C(CCSC2=C(C1)Cl)=O)C | C11H9ClO3S
reactant | thionyl chloride | 24 mmol, 2.8 g, 3.0 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | 1-ethyl-5-hydroxypyrazole | 8.6 mmol, 0.96 g, 1.1 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | triethylamine | 9.41 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-chloro-6-(1-ethylpyrazol-5-yl)oxycarbonyl-5-methylthiochroman-4-one | 2.29 g, yield 84% | ClC=1C=C(C(=C2C(CCSC12)=O)C)C(=O)OC1=CC=NN1CC | C16H15ClN2O3S
